US06964974B2
A solution of 6.0 g (16.3 mmol) of 4-(2,2-Dibromo-vinyl)-piperidine-1-carboxylic acid tert-butyl ester in 150 ml THF was treated at −78° C. with 21.4 ml (34.2 mmol) of n-BuLi (ca 1.6 M in hexane). After 2 h at this temperature 4.9 g (16.3 mmol) of paraformaldehyde were added. The reaction was warmed up to RT for 3 h and after 1 h at this temperature partitioned between water/ether (3×). The organic phases were washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated. Purification by flash-chromatography on silica gel (hexane/EtOAc 4:1) gave 3.34 g (86%) of 4-(3-Hydroxy-prop-1-ynyl)-piperidine-1-carboxylic acid tert-butyl ester, MS: 239 (M).

reactant | 4-(2,2-Dibromo-vinyl)-piperidine-1-carboxylic acid tert-butyl ester | 16.3 mmol, 6.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=C(Br)Br | C12H19Br2NO2
reactant | n-BuLi | 34.2 mmol, ca 1.6 M, 21.4 ml | [Li]CCCC
reactant | paraformaldehyde | 16.3 mmol, 4.9 g | C=O | CH2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 4-(3-Hydroxy-prop-1-ynyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.34 g, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CCO | C13H21NO3
